US08557992B2
1,5-Anhydro-3-(5-bromo-7-oxo-1,8-phenanthrolin-8(7H)-yl)-2,3-dideoxy-L-threo-pentitol was prepared by the procedure described for the synthesis of 5-bromo-8-[(1S,2S)-2-hydroxycyclohexyl]-1,8-phenanthrolin-7(8H)-one in Example 1, substituting (3R,4S)-4-aminotetrahydro-2H-pyran-3-ol for (1S,2S)-2-aminocyclohexanol.

reactant | 5-bromo-8-[(1S,2S)-2-hydroxycyclohexyl]-1,8-phenanthrolin-7(8H)-one | BrC1=C2C=CC=NC2=C2C=CN(C(C2=C1)=O)[C@@H]1[C@H](CCCC1)O | C18H17BrN2O2
reactant | (1S,2S)-2-aminocyclohexanol | N[C@@H]1[C@H](CCCC1)O | C6H13NO
product | 1,5-Anhydro-3-(5-bromo-7-oxo-1,8-phenanthrolin-8(7H)-yl)-2,3-dideoxy-L-threo-pentitol | BrC1=C2C=CC=NC2=C2C=CN(C(C2=C1)=O)[C@H]1CCOC[C@@H]1O | C17H15BrN2O3
